### PR TITLE
Add specialized associative List folds

### PR DESCRIPTION
**Pull request by joehendrix**
This uses the associativity, commutativity and identity classes recently added to Lean core to define folds with simplification lemmas that can move intermediate results outside the fold for better use in tactics.

### CODE REVIEW

File: Std/Data/Nat/Lemmas.lean [hunk 1]
```diff
@@ -133,6 +131,26 @@ theorem recDiagOn_succ_succ {motive : Nat → Nat → Sort _} (zero_zero : motiv
...
+
+instance : Std.IsAssociative (α := Nat) (· * ·) where
+  assoc := Nat.mul_assoc
+
+instance : Std.IsCommutative (α := Nat) (· * ·) where
+  comm := Nat.mul_comm
+
+instance : Std.IsCommId (α := Nat) (· * ·) 1 where
+  right_id := Nat.mul_one
+
```
Comment (fgdorais) [inline Std/Data/Nat/Lemmas.lean:153]: These could be in Basic? I'm sincerely asking, this is debatable.

File: Std/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -181,6 +181,9 @@ theorem mem_iff_append {a : α} {l : List α} : a ∈ l ↔ ∃ s t : List α, l
 
 /-! ### map -/
 
+@[simp]
+theorem map_eq_map (f : α → β) (l : List α) : f <$> l = map f l := rfl
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:185]: I don't think there is a style guidance about this but if it can all fit in one line then I tend to prefer not breaking a line after `@[simp]`. This applies elsewhere but it's just nitpick.

File: Std/Classes/Algebra.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+  assoc := IsAssociative.assoc
+
+/--
+A binary operation with an associated identity element that can be inferred
+through class inference.
+
+This intentionally does not have associated lemmas.  For lemmas, see @IsLeftId@,
+@IsRightId@ and @IsId .
+ -/
+class HasId {α : Type u} (op : α → α → α) (o : outParam α) : Prop where
```
Comment (fgdorais) [inline Std/Classes/Algebra.lean:50]:
```suggestion
class HasId {α : Type u} (op : α → α → α) (o : outParam α) : Prop
```

File: Std/Classes/Algebra.lean [hunk 4]
```diff
@@ -0,0 +1,76 @@
...
+These classes index properties by the operation rather than the type as
+in Haskell.
+-/
+
+namespace Std
+
+/-- A symmetric operation. -/
+class IsSymmOp {α : Type u} {β : Sort v} (op : α → α → β) : Prop where
+  /-- Symmetric operation -/
+  symm_op : ∀ a b, op a b = op b a
```
Comment (fgdorais) [inline Std/Classes/Algebra.lean:22]: Where is this used other than the one derived instance below? I think this could stay in Mathlib until needed.

Comment (joehendrix) [reply Std/Classes/Algebra.lean:22]: It's not.  I added it because it was next to the other declarations and we have a `Symm` tactic.

**Comment by digama0** [comment]
Note that these classes in mathlib are deprecated and slated for removal; they were in lean 3 core and rarely used. I think we should add these on an as-needed basis.

File: Std/Data/Nat/Lemmas.lean (hunk 1 above)
Comment (digama0) [reply Std/Data/Nat/Lemmas.lean:153]: I would be inclined not to unless it appears in a definition. I don't think it does in this case, because list folds don't require any properties on the operation (unlike finset folds)

File: Std/Data/List/Lemmas.lean (hunk 2 above)
Comment (joehendrix) [inline Std/Data/List/Lemmas.lean:185]:
```suggestion
@[simp] theorem map_eq_map (f : α → β) (l : List α) : f <$> l = map f l := rfl
```

File: Std/Data/Nat/Lemmas.lean (hunk 1 above)
Comment (joehendrix) [reply Std/Data/Nat/Lemmas.lean:153]: `List.fold` does have a typeclass dependency on `HasId` in this implementation to find the identity (there aren't any properties though in that class -- it's essentially a way to associate an identity value to a function.

I think that's a slight argument for putting them in `Basic` so that the typeclass instance is available (via `IsCommId`).  I kept it here though as they are almost entirely for verification though.

**Comment by joehendrix** [comment]
I'm open to other approaches then reviving these classes, but it did seem like a way to get the monoid properties I wanted for writing fold/sum lemmas.

`IsSymmOp` isn't strictly needed but it seemed to naturally go with the other properties, and the associated Symm tactic is already in Std.

**Comment by fgdorais** [comment]
Is the only reason not to use the Lean core classes that these classes are `Prop`?

**Comment by joehendrix** [comment]
The associativity and commutative ones don't have a good reason.  Perhaps I should use the Lean core versions.  The Identity classes use an out parameter for the identity/neutral element.

**Comment by fgdorais** [comment]
Maybe it would be better to add the missing `outParam` in core? Perhaps also make these classes `Prop` to avoid diamonds? This kind of PR to core can backfire in interesting ways but that would give more guidance what to do in Std.

Another option is to move `ac_rfl` to Std. That way we could more freely turn it into something more useful.

File: Std/Classes/Algebra.lean (hunk 4 above)
Comment (fgdorais) [reply Std/Classes/Algebra.lean:22]: I experimented with deleting `ac_rfl` from core and nothing seems to break: https://github.com/fgdorais/lean4/tree/ac_rfl

**Comment by joehendrix** [comment]
I'm looking into both changing the core axioms and/or moving/removing ac_rfl.

If ac_rfl is removed from core, then technically the classes could live in Std.  However, I think it's good for tactics that don't use Std (potentially so they can migrate to Std) to have a common classes for this.

**Comment by joehendrix** [comment]
I'll revisit this when leanprover/lean4#3195 is merged.

File: Std/Data/List/Basic.lean [hunk 5]
```diff
@@ -254,6 +254,44 @@ where
...
+/--
+`foldMap op f l` is equivalent to `fold op (map f l)`.
+-/
+@[nolint unusedArguments] -- HasId needed for inference only.
+def foldMap {α : Type _} {β : Type _} (op : β → β → β) {o : β} [Std.LeftIdentity op o] (f : α → β)
+    (l:List α) : β :=
+  l.foldl (init := o) (fun b a => op b (f a))
+
+/--
+Returns sum of elements in list addinging init in.
```
Comment (semorrison) [inline Std/Data/List/Basic.lean:284]:
```suggestion
Returns sum of elements in list.
```

File: Std/Data/List/Basic.lean [hunk 6]
```diff
@@ -254,6 +254,44 @@ where
...
+-/
+def sum [Add α] [OfNat α 0] (l:List α) : α :=
```
Comment (semorrison) [inline Std/Data/List/Basic.lean:286]:
```suggestion
def sum [Add α] [OfNat α 0] (l : List α) : α :=
```

File: Std/Data/List/Basic.lean [hunk 7]
```diff
@@ -254,6 +254,44 @@ where
...
+  l.foldl (init := 0) (· + ·)
+
+/--
+sumMap f l returns the sum of `sum (map f l)` without creating an intermediate list.
+-/
+def sumMap {α : Type u} {β : Type v} [Add β] [OfNat β 0] (f : α → β) (l:List α) : β :=
```
Comment (semorrison) [inline Std/Data/List/Basic.lean:292]:
```suggestion
def sumMap {α : Type u} {β : Type v} [Add β] [OfNat β 0] (f : α → β) (l : List α) : β :=
```

File: Std/Data/List/Basic.lean [hunk 8]
```diff
@@ -254,6 +254,44 @@ where
...
+  assoc := append_assoc
+
+instance {α : Type _} : Std.LawfulIdentity (α := List α) List.append nil where
+  left_id := nil_append
+  right_id := append_nil
+
+/-! ## Generic fold and sum operations. -/
+
+/--
+Applies a fold operation to join elements togethrr.
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:269]:
```suggestion
Applies a fold operation to join elements together.
```

File: Std/Data/List/Basic.lean [hunk 9]
```diff
@@ -254,6 +254,44 @@ where
...
+-/
+@[nolint unusedArguments] -- HasId needed for inference only.
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:271]:
```suggestion
@[nolint unusedArguments] -- Std.LeftIdentity is needed for inference only.
```

File: Std/Data/List/Basic.lean [hunk 10]
```diff
@@ -254,6 +254,44 @@ where
...
+def fold {α : Type _} (op : α → α → α) {o : α} [Std.LeftIdentity op o] (l:List α) : α :=
+  l.foldl (init := o) op
+
+/--
+`foldMap op f l` is equivalent to `fold op (map f l)`.
+-/
+@[nolint unusedArguments] -- HasId needed for inference only.
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:278]:
```suggestion
@[nolint unusedArguments] -- Std.LeftIdentity is needed for inference only.
```

File: Std/Data/List/Basic.lean [hunk 11]
```diff
@@ -254,6 +254,44 @@ where
...
+  left_id := nil_append
+  right_id := append_nil
+
+/-! ## Generic fold and sum operations. -/
+
+/--
+Applies a fold operation to join elements togethrr.
+-/
+@[nolint unusedArguments] -- HasId needed for inference only.
+def fold {α : Type _} (op : α → α → α) {o : α} [Std.LeftIdentity op o] (l:List α) : α :=
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:272]:
```suggestion
def fold {α : Type _} (op : α → α → α) {o : α} [Std.LeftIdentity op o] (l : List α) : α :=
```

File: Std/Data/List/Basic.lean [hunk 12]
```diff
@@ -254,6 +254,44 @@ where
...
+  l.foldl (init := o) op
+
+/--
+`foldMap op f l` is equivalent to `fold op (map f l)`.
+-/
+@[nolint unusedArguments] -- HasId needed for inference only.
+def foldMap {α : Type _} {β : Type _} (op : β → β → β) {o : β} [Std.LeftIdentity op o] (f : α → β)
+    (l:List α) : β :=
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:280]:
```suggestion
    (l : List α) : β :=
```

File: Std/Data/List/Lemmas.lean [hunk 13]
```diff
@@ -361,8 +363,87 @@ theorem map_snd_zip :
...
+  | nil => simp
+  | cons c l ind => simp [ind, h.assoc]
+
+theorem foldr_assoc (op : α → α → α) [h : Std.Associative op] (a b : α) (l : List α) :
+    foldr op (op a b) l = op (foldr op a l) b := by
+  induction l generalizing a b with
+  | nil => simp
+  | cons c l ind => simp [ind, h.assoc]
+
+open Std
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:381]: Move to top?

File: Std/Data/List/Lemmas.lean [hunk 14]
```diff
@@ -361,8 +363,87 @@ theorem map_snd_zip :
...
+
+@[simp]
+theorem fold_nil (op : α → α → α) [LeftIdentity op o] : fold op (@nil α) = o := rfl
+
+@[simp]
+theorem fold_cons (op : α → α → α) [ha : Associative op]  [hl : LawfulIdentity op o]
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:387]:
```suggestion
theorem fold_cons (op : α → α → α) [ha : Associative op] [hl : LawfulIdentity op o]
```

File: Std/Data/List/Lemmas.lean [hunk 15]
```diff
@@ -361,8 +363,87 @@ theorem map_snd_zip :
...
+    (a : α) (l : List α) : fold op (a :: l) = op a (fold op l) := by
+  unfold fold
+  simp [foldl_cons]
+  conv => lhs; rw [hl.left_id, ←hl.right_id a]
+  simp [foldl_assoc, hl.left_id]
+
+@[simp]
+theorem fold_append (op : α → α → α) [ha : Associative op]  [hl : LawfulIdentity op o]
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:395]:
```suggestion
theorem fold_append (op : α → α → α) [ha : Associative op] [hl : LawfulIdentity op o]
```

File: Std/Data/List/Lemmas.lean [hunk 16]
```diff
@@ -361,8 +363,87 @@ theorem map_snd_zip :
...
+  induction l generalizing init with
+  | nil => rfl
+  | cons a l ind => simp [ind]
+
+@[simp]
+theorem sum_nil [Add α] [OfNat α 0] : sum (@nil α) = 0 := rfl
+
+@[simp]
+theorem sum_cons [Add α] [h : OfNat α 0]
+    [ha : Associative (α := α) (· + ·)] [hl : Std.LawfulIdentity (α := α) (· + ·) 0]
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:424]:
```suggestion
    [ha : Associative (α := α) (· + ·)] [hl : LawfulIdentity (α := α) (· + ·) 0]
```

File: Std/Data/List/Lemmas.lean [hunk 17]
```diff
@@ -361,8 +363,87 @@ theorem map_snd_zip :
...
+    (a : α) (l : List α) : sum (a :: l) = a + sum l := by
+  unfold sum
+  simp [foldl_cons]
+  conv => lhs; rw [hl.left_id, ←hl.right_id a]
+  simp [foldl_assoc, hl.left_id]
+
+@[simp]
+theorem sum_append [Add α] [OfNat α 0]
+    [ha : Std.Associative (α := α) (· + ·)]  [hl : Std.LawfulIdentity (α := α) (· + ·) 0]
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:433]:
```suggestion
    [ha : Associative (α := α) (· + ·)]  [hl : LawfulIdentity (α := α) (· + ·) 0]
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

**Comment by semorrison** [comment]
I've changed the base of the PR to `main`, as it is now on `v4.6.0-rc1` which includes the upstream changes. I've also set the `lean-toolchain` to `v4.6.0-rc1` to resolve the conflict.

File: Std/Data/List/Basic.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (joehendrix) [reply Std/Data/List/Basic.lean]: I've added these.

File: Std/Data/List/Basic.lean [hunk 18]
```diff
@@ -254,6 +254,59 @@ where
     | _::_ => by simp [intercalateTR.go, go]
     simp [intersperse, go]
 
+/-! ## Algebraic instances -/
+
+instance {α : Type _} : Std.Associative (α := List α) List.append where
+  assoc := append_assoc
+
+instance {α : Type _} : Std.LawfulIdentity (α := List α) List.append nil where
```
Comment (fgdorais) [inline Std/Data/List/Basic.lean:262]: I think this should be
```suggestion
instance {α : Type _} : Std.LawfulIdentity (α := List α) (· ++ ·) [] where
```
so that it works with `Append` notation.

**Review by fgdorais — APPROVED** [review]

**Comment by fgdorais** [comment]
All the prereqs are good now, so this could be merged soon.

**Comment by fgdorais** [comment]
Looks like the only issue left is the `to_additive` problem in Mathlib. We need an expert to deal with that...

**Comment by fgdorais** [comment]
This PR was marked `will-merge-soon` since Februrary 16, I removed that tag on July 20. Presumably something went wrong along the way... What is the current status of this PR?
